US06855708B2
N-(N-(3-Methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester (0.036 mmol, 24 mg) was dissolved 0.089 mL of MeOH and 0.089 mL of a 0.4 N solution of NaOH in MeOH. The resulting mixture was stirred overnight at rt. Volatiles were removed in vacuo and the residue was partitioned between 5% citric acid and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (2×). The organic extracts were combined and washed with brine, and dried over anhydrous Na2SO4. The residue obtained after filtration and evaporation of volatiles was purified by flash column chromatography on silica gel eluted with a mixture of CH2Cl2 and MeOH to provide N-(N-(3-methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)-amino)-(L)-phenylalanine (18 mg, 67%) as a white foam (homogeneous by TLC (9:1 dichloromethane: methanol)).

reactant | N-(N-(3-Methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester | 0.036 mmol, 24 mg | CC=1C=C(C=CC1)S(=O)(=O)N1C(C2CCCCC2C1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)OC | C32H34Cl2N4O6S
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 0.089 mL | CO | CH4O
product | N-(N-(3-methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)-amino)-(L)-phenylalanine | 18 mg, 67% | CC=1C=C(C=CC1)S(=O)(=O)N1C(C2CCCCC2C1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)O | C31H32Cl2N4O6S
